US05298652
The reaction of 2-(phenylmethoxy)-5-(tetradecyloxy)benzoic acid chloride with diethyl iminodiacetate under conditions described in Example 80 gave N-(2-ethoxy-2-oxoethyl)-N-[5-(tetradecyloxy)-2-(phenylmethoxy)benzoyl]glycine ethyl ester (82% yield, mp 49°-50°).

reactant | 2-(phenylmethoxy)-5-(tetradecyloxy)benzoic acid chloride | C1(=CC=CC=C1)COC1=C(C(=O)Cl)C=C(C=C1)OCCCCCCCCCCCCCC | C28H39ClO3
reactant | diethyl iminodiacetate | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
product | N-(2-ethoxy-2-oxoethyl)-N-[5-(tetradecyloxy)-2-(phenylmethoxy)benzoyl]glycine ethyl ester | 82% yield | C(C)OC(CN(C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O)CC(=O)OCC)=O | C36H53NO7
